US03996243
A 55.8-g (0.22 mol) sample of 2,5-dichloro-3-thienylsulfonyl chloride was added in small portions to a stirred solution of 150 ml concentrated nitric acid and 150 ml concentrated sulfuric acid. After the addition was completed, the reaction mixture was stirred at about 25° C overnight. The reaction mixture was then diluted with ice water and filtered to give the crude 2,5-dichloro-4-nitro-3-thienylsulfonyl chloride product. The product was washed with water and dried. Recrystallization from methylene chloride gave the product as a brown solid, m.p. 89°-91° C.

reactant | 2,5-dichloro-3-thienylsulfonyl chloride | ClC=1SC(=CC1S(=O)(=O)Cl)Cl | C4HCl3O2S2
reactant | nitric acid | 150 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 150 ml | S(O)(O)(=O)=O | H2O4S
product | 2,5-dichloro-4-nitro-3-thienylsulfonyl chloride | ClC=1SC(=C(C1S(=O)(=O)Cl)[N+](=O)[O-])Cl | C4Cl3NO4S2
